US04006159
Preparation of 1(and 2 and 4)-Palmitoyl-s-triazole-3-carboxamide
To a cooled, stirred mixture of 3 g. of 1,2,4-triazole-3-carboxamide and 7.4 g. of palmitoyl chloride in 125 ml. of anhydrous diethyl ether is added rapidly 2.75 g. of triethylamine. The cooling bath is removed and the mixture is stirred. at room temperature for 24 hours. The mixture is filtered and the solid is washed successively with diethyl ether, cold water, diethyl ether and then dried in vacuo for 4 hours. The solid is extracted with hot dry acetonitrile and cooled yielding a colorless solid. The solid is redissolved by heating the mixture and allowed to recrystallize from the clear, colorless solution. The product is collected, washed with acetonitrile and dried in vacuo for 3 hours, yielding 0.75 g., m.p. 145°-160° C. (dec.).

reactant | 1,2,4-triazole-3-carboxamide | N1N=C(N=C1)C(=O)N | C3H4N4O
reactant | palmitoyl chloride | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Palmitoyl-s-triazole-3-carboxamide | C(CCCCCCCCCCCCCCC)(=O)C1=NC(=NN1)C(=O)N | C19H34N4O2
